US09062070B2
2-chloro-6-fluoro-3-vinylbenzonitrile dissolved in CHCl3 (300 mL) then added mCPBA (29.4 g, 171 mmol) and stirred at RT for 16 h. When TLC showed starting materials were consumed, the mixture was washed with Na2S2O3 (1×), 1N NaOH (1×), brine (2×), then dried over Na2SO4. Filtered and concentrated then purified by MPLC chromatography using 330 g ISCO Redi-sep column and eluted with 20% ethyl acetate/hexane solvent system to yield 2-chloro-6-fluoro-3-(oxiran-2-yl)benzonitrile.

reactant | 2-chloro-6-fluoro-3-vinylbenzonitrile | ClC1=C(C#N)C(=CC=C1C=C)F | C9H5ClFN
reactant | mCPBA | 171 mmol, 29.4 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | CHCl3 | 300 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-chloro-6-fluoro-3-(oxiran-2-yl)benzonitrile | ClC1=C(C#N)C(=CC=C1C1OC1)F | C9H5ClFNO
